US08357808B2
A 28% aqueous ammonia solution (5 ml) was added to (1S,3S,6R)-N,N-dimethyl-7-oxabicyclo[4.1.0]heptane-3-carboxamide (1 g) at room temperature. After stirring at 40° C. for 5 hours, the solvent was concentrated under reduced pressure to obtain a crude form of (1S,3R,4R)-3-amino-4-hydroxy-N,N-dimethylcyclohexanecarboxamide (1.18 g). The obtained crude form was dissolved in water (5 ml). To the solution, di-tert-butyl dicarbonate (1.93 g) and a 10 N aqueous sodium hydroxide solution (1.5 ml) were then added at room temperature. After stirring at 40° C. for 2 hours, the mixture was subjected to extraction with 4-methyl-2-pentanone (MIBK) (5 ml) three times, and the extraction solvent was distilled off under reduced pressure. To the residue, 4-methyl-2-pentanone (MIBK) (3 ml) was added, and the mixture was stirred at room temperature. The precipitated crystals were collected by filtration and then dried to obtain the title compound (1.26 g).

reactant | ammonia | 5 ml | N | H3N
reactant | (1S,3S,6R)-N,N-dimethyl-7-oxabicyclo[4.1.0]heptane-3-carboxamide | 1 g | CN(C(=O)[C@@H]1C[C@@H]2O[C@@H]2CC1)C | C9H15NO2
product | (1S,3R,4R)-3-amino-4-hydroxy-N,N-dimethylcyclohexanecarboxamide | 1.18 g | N[C@@H]1C[C@H](CC[C@H]1O)C(=O)N(C)C | C9H18N2O2
